US08614201B2
Intermediate 45: C-[6-(4-Trifluoromethyl-phenyl)-pyrimidin-4-yl]-methylamine
To a solution of solution of 6-(4-trifluoromethyl-phenyl)-pyrimidine-4-carbonitrile (1.34 g, 5.37 mmol) in ethanol (40 mL) was added 10% Pd/C (700 mg) and the reaction mixture was placed under a H2 atmosphere (55 psi) for 3 hours. The reaction mixture was filtered through a pad of celite and concentrated to provide the desired product (1.3 g, 97%). 1H NMR (400 MHz, CDCl3) δ 9.23 (d, J=1.2, 1H), 8.23 (d, J=8.1, 2H), 7.83 (s, 1H), 7.77 (d, J=8.2, 2H), 4.08 (s, 2H), 1.59 (s, 2H).

reactant | 6-(4-trifluoromethyl-phenyl)-pyrimidine-4-carbonitrile | 5.37 mmol, 1.34 g | FC(C1=CC=C(C=C1)C1=CC(=NC=N1)C#N)(F)F | C12H6F3N3
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | Pd/C | 700 mg | [Pd] | Pd
product | C-[6-(4-Trifluoromethyl-phenyl)-pyrimidin-4-yl]-methylamine | 1.3 g, 97% | FC(C1=CC=C(C=C1)C1=CC(=NC=N1)CN)(F)F | C12H10F3N3
